Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:  
 ___ year old male with history of HTN, T2DM, PVD, EtOH abuse 
presented with hypertensive emergency in setting of medication 
non-compliance with mild pulmonary edema and NSTEMI. 

Patient endorsed non-compliance with medications since ___ 
due to going through a hard time losing his father and inability 
to make it to see his PCP, who no longer wants to see him 
because of frequent no shows. He noted a headache since ___ 
that is intermittent, new and not associated with focal 
neurologic changes. He presented to the hospital due to chest 
pressure and dyspnea with exertion. Has a history of a medically 
managed MI and positive stress test in the past. Denied rest 
pain, nausea, vomiting, or light-headedness. He also did note 
that he has been having some recurrent claudication in his 
bilateral lower extremities. Denied changes in urination or 
weakness. 
 
In ED initial VS:  98.0 67 ___ 2L NC. Briefly on NRB, 
but no documented desaturations.
Exam:  Unremarkable
Labs significant for:  troponin of 0.10, BNP 2400, WBC 12.3, 
Lactate 1.9, Cr 1.0
Patient was given:  Ntiro gtt, titrated up to 2 and then down to 
1.5 mcg/kg/min. Also Lasix 40 mg IV. 

 
Past Medical History:
PVD - L leg stent, R leg bypass.
HLD
HTN
CAD  - medically managed MI and positive stressed managed 
medically.
T2DM 

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS:  Reviewed in Metavision
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP elevated to ~ 9cm, no LAD. Negative HJR. 
LUNGS: crackles in bilateral bases otherwise CTA  
CV: Regular rate and rhythm, normal S1 S2, ___ holosystolic 
murmur at the apex, but no rubs or gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses on R and 1+ on L, no 
clubbing, cyanosis. 1+ pitting edema at ankles  
SKIN:  No rashes
NEURO:  CN's intact. No focal weakness. 
 

DISCHARGE PHYSICAL EXAM:
VITALS: 24 HR Data (last updated ___ @ 807)
    Temp: 97.7 (Tm 98.6), BP: 157/98 (140-179/84-105), HR: 69
(68-84), RR: 16 (___), O2 sat: 98% (91-98), O2 delivery: Ra,
Wt: 178.2 lb/80.83 kg  
Admission weight: 82 kg
Fluid Balance (last updated ___ @ 808) 
  Last 8 hours  Total cumulative -235ml
    IN: Total 240ml, PO Amt 240ml
    OUT:  Total 475ml, Urine Amt 475ml
  Last 24 hours  Total cumulative -1615ml
    IN: Total 1760ml, PO Amt 1760ml
    OUT:  Total 3375ml, Urine Amt 3375ml  
GENERAL: alert and interactive, NAD, sitting upright in bed,
moving easily without distress
HEENT: NC/AT, PERRL,EOMI, sclera anicteric, MMM
NECK: JVP ~ 5 cm
CARDIAC: RRR, no m/r/g 
LUNGS: CTAB, no wheezes or crackles 
ABDOMEN: soft, non-distended, non-tender to palpation, no 
rebound
or guarding
EXTREMITIES: no lower extremity edema
SKIN: warm, well-perfused, no rashes
NEUROLOGIC: A/Ox3, CN II-XII intact, moving all four extremities
with purpose
 
Pertinent Results:
ADMISSION LABS:

___ 10:29AM   LACTATE-1.9
___ 10:15AM   GLUCOSE-147* UREA N-11 CREAT-1.0 SODIUM-144 
POTASSIUM-4.0 CHLORIDE-104 TOTAL CO2-25 ANION GAP-15
___ 10:15AM   estGFR-Using this
___ 10:15AM   cTropnT-0.10*
___ 10:15AM   CK-MB-3 proBNP-2434*
___ 10:15AM   WBC-12.3* RBC-4.64 HGB-15.4 HCT-44.8 MCV-97 
MCH-33.2* MCHC-34.4 RDW-14.7 RDWSD-51.2*
___ 10:15AM   NEUTS-68.9 LYMPHS-16.4* MONOS-8.1 EOS-5.5 
BASOS-0.8 IM ___ AbsNeut-8.48* AbsLymp-2.01 AbsMono-0.99* 
AbsEos-0.67* AbsBaso-0.10*
___ 10:15AM   PLT COUNT-257

RELEVANT RESULTS RESULTS:
___ 11:28PM   cTropnT-0.16*
___ 03:50PM   cTropnT-0.13*
___ 10:15AM BLOOD CK-MB-3 proBNP-2434*

ECHO ___:
Moderate to severe mitral regurgitation. Moderate pulmonary 
artery systolic hypertension. Mild symmetric left ventricular 
hypertrophy with preserved regional/global biventricular 
systolic function. Mild right ventricular cavity dilation with 
preserved free wall motion. Mildly dilated ascending aorta. 
Increased PCWP.  

___
CXR: The interstitial abnormality has worsened and could 
represent pulmonary edema. Cardiomediastinal silhouette is 
stable.  There are no pleural effusions.  No pneumothorax is 
seen 

DISCHARGE LABS:
  
___ 06:15AM BLOOD WBC-11.3* RBC-4.09* Hgb-13.6* Hct-40.9 
MCV-100* MCH-33.3* MCHC-33.3 RDW-15.0 RDWSD-53.1* Plt ___
___ 06:15AM BLOOD Glucose-137* UreaN-15 Creat-0.8 Na-140 
K-3.8 Cl-99 HCO___ AnGap-14
___ 03:00PM BLOOD CK-MB-2 cTropnT-0.10*
___ 06:15AM BLOOD Calcium-8.7 Phos-2.6* Mg-2.___ year old male with history of HTN, T2DM, PVD, EtOH abuse 
presented with hypertensive emergency in setting of medication 
non-compliance with mild pulmonary edema and NSTEMI. 

# H/o HTN
# Hypertensive Emergency: Presented with systolics in the 220's 
with NSTEMI and pulmonary edema. Medication non-compliance after 
the passing of his father. Started on a nitro gtt in ED with 
quick improvement, SBP's down to 168. No neurologic symptoms 
with correction of hypertension. Patient endorsed non-compliance 
with blood pressure medications since ___. He stated that 
his prior PCP terminated him from her office ___ making 
appointments. His blood pressures were controlled with home 
lisinopril 40 mg daily, home imdur 60 mg daily, and 45 mg 
nifedipine BID. HCTZ 25 mg was added. Medications should be 
titrated as an outpatient to minimize medications, but maximize 
dosages for goal SBP < 130 in setting of prior non-compliance. 

# Acute Hypoxemic Respiratory Failure: 
# Acute Heart Failure with Preserved Ejection fraction
# Pulmonary edema 
# Severe mitral regurgitation 
Mild-Moderate pulmonary edema in setting of hypertensive 
emergency and elevation of BNP. Responded well to afterload 
reduction and Lasix. TTE completed that showed severe MR, thus 
afterload reduction and volume reduction beneficial. Sent home 
on HCTZ 25 mg daily for volume management. Euvolemic on 
discharge. 

# NSTEMI: Likely T2 NSTEMI in setting of hypertensive emergency 
and medication non-compliance. Treated with metoprolol and 
lisinopril. Metoprolol uptitrated from home dose. Would likely 
benefit from an outpatient stress test and based on the result 
possibly a non-urgent cath.

CHRONIC ISSUES
-----------------
# IDDM: held home metformin while inpatient

# PVD: Changed to 81 mg ASA

# HLD: Continued high dose statin

# Tobacco Use: Nicotine patch

TRANSITIONAL ISSUES:
====================
[] Please establish care with a primary care doctor. An 
appointment request has been made with Dr. ___ ___ 
___ at 1:40 pm. 
[] Please repeat CMP to ensure stable creatinine and 
electrolytes after diuretic changes
[] Attempt to consolidate cardiac meds as possible as he is on 
an extensive regimen and has history of non-compliance
[] Patient should have stress test arranged as he had an NSTEMI 
on admission and likely has underlying CAD and may require 
non-urgent catherization. 

Discharge weight: 80.8 kg
Discharge Cr: 0.8 

HCP: ___ ___
Code: Full (discussed w/ patient) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
2. Lisinopril 40 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. NIFEdipine (Extended Release) 60 mg PO DAILY 
5. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
6. Metoprolol Succinate XL 50 mg PO DAILY 
7. MetFORMIN (Glucophage) 1000 mg PO BID 
8. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1.  Hydrochlorothiazide 25 mg PO DAILY 
RX *hydrochlorothiazide 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
2.  Nicotine Patch 14 mg TD DAILY:PRN Craving's 
RX *nicotine 14 mg/24 hour 1 patch daily Disp #*28 Patch 
Refills:*0 
3.  varenicline 0.5 mg oral DAILY 
Day 1->3 0.5 mg daily
Day 4->7 0.5 mg twice daily
Day 8 onwards: 1 mg twice daily 
RX *varenicline [Chantix Starting Month Box] 0.5 mg (11)-1 mg 
(42) 1 tablets(s) by mouth daily Disp #*1 Dose Pack Refills:*0 
4.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Aspirin Regimen] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
5.  Metoprolol Succinate XL 150 mg PO DAILY 
RX *metoprolol succinate 100 mg 1.5 tablet(s) by mouth daily 
Disp #*45 Tablet Refills:*0 
6.  NIFEdipine (Extended Release) 30 mg PO BID 
RX *nifedipine [Afeditab CR] 30 mg 1 tablet(s) by mouth twice 
daily Disp #*60 Tablet Refills:*0 
7.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*0 
8.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
RX *isosorbide mononitrate 60 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
9.  Lisinopril 40 mg PO DAILY 
RX *lisinopril 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
10.  MetFORMIN (Glucophage) 1000 mg PO BID 
RX *metformin [Glucophage] 1,000 mg 1 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*0 
11.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypertension
Non-ST elevation myocardial infarction 
Alcohol abuse 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because your blood pressures 
were elevated which was causing difficulty in breathing. 

What happened while you were here?
- You went to the intensive care unit to lower your blood 
pressure
- You received medicine to help decrease extra fluid you 
accumulated 

What do you need to do when you go home?
- You are being set up to see Dr. ___ in her primary care 
clinic on ___ at 1:40 pm. Although she has 
started the facilitation of this appointment, please call the 
primary care office (Healthcare Associates ___ to 
ensure this appointment is confirmed. 
- Please obtain an upper extreity blood pressure cuff and take 
your blood pressures 1 hr after medications 2x daily
- Your blood pressure medications were changed and you will 
require labs to be drawn on ___ this week at your primary 
care appointment. 
- Please take all of the medications prescribed below. 

It was a pleasure taking care of you!
Your ___ Care Team. 

 
Followup Instructions:
___